US05117004
A mixture of 118 g (1 mol) of benzimidazole, g (2 mol) of K2CO3 and 400 ml of liquid carbon dioxide was stirred in an autoclave at 250° C. under autogenous pressure for 10 hours. The solid output was pulverized, suspended in 2.5 L of water and brought to pH 3-4 with concentrated hydrochloric acid while being cooled with ice. The resulting precipitate was filtered off and recrystallized from water to give 118 g (73%) of benzimidazole-2-carboxylic acid (Compound No. 4); mp. 170° C. (dec.).

reactant | benzimidazole | 1 mol, 118 g | N1=CNC2=C1C=CC=C2 | C7H6N2
reactant | K2CO3 | 2 mol | C(=O)([O-])[O-].[K+].[K+]
reactant | carbon dioxide | C(=O)=O | CO2
reactant | hydrochloric acid | Cl | ClH
solvent | water | 2.5 L | O | H2O
product | benzimidazole-2-carboxylic acid | 118 g, 73% | N1=C(NC2=C1C=CC=C2)C(=O)O | C8H6N2O2
